US05260298
5-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-imidazo[1,5-a]-1,2,4-triazolo[4,3-c]quinazoline (compound 1)
To a stirred slurry of 5-chloro-1,2,4-triazolo[4,3-c]quinazoline (3.5 g, 17 mmol) in 40 ml of dry DMF at 10° C. was first added 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole (purity 80%, 3.4 g, 18 mmol) and then a solution of potassium tert-butoxide (2.55 g, 23 mmol) in 40 ml of DMF, allowing the temperature to rise to room temperature. After 1/2 h the mixture was filtered and the filter cake washed with water and finally with ether and dried, giving the title compound as colorless crystals, m.p. 308°-314° C.

reactant | 5-chloro-1,2,4-triazolo[4,3-c]quinazoline | 17 mmol, 3.5 g | ClC1=NC=2C=CC=CC2C=2N1C=NN2 | C9H5ClN4
reactant | 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole | 18 mmol, 3.4 g | C1(CC1)C1=NC(=NO1)C[N+]#[C-] | C7H7N3O
reactant | potassium tert-butoxide | 23 mmol, 2.55 g | CC(C)([O-])C.[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 5-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-imidazo[1,5-a]-1,2,4-triazolo[4,3-c]quinazoline | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N1C(C=3C=CC=CC23)=NN=C1 | C16H11N7O
